US05750531
Step 3: 2,4-dichloro-6-ethylpyrimidine
A mixture of phosphorous oxychloride(43 ml), N,N-dimethyl aniline(6.6 ml) and 2,4-dihydroxy-6-ethyl pyrimidine(11.12 g, 79.3 mmol) prepared in the above Step 2 was heated to reflux for 6 hours. The reaction mixture was cooled to a room temperature and diluted with dichloromethane. The diluted solution was added slowly to ice water, while maintaining the temperature of the reaction system below 10° C. and the mixture was extracted with dichloromethane. The combined dichloromethane layers were dried over magnesium sulfate and concentrated to give 13.10 g of the titled compound as an oily form. (Yield: 93.3%)

reactant | phosphorous oxychloride | 43 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethyl aniline | 6.6 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2,4-dihydroxy-6-ethyl pyrimidine | 79.3 mmol, 11.12 g | OC1=NC(=CC(=N1)O)CC | C6H8N2O2
reactant | dichloromethane | ClCCl | CH2Cl2
product | 2,4-dichloro-6-ethylpyrimidine | 13.10 g, Yield: 93.3% | ClC1=NC(=CC(=N1)Cl)CC | C6H6Cl2N2
